US04347315
A mixture of chloro-1H-imidazo(4,5-c)pyridine (2.0 g, 13 mmol), benzylamine (5 ml) and a few drops of water was heated at reflux for 4 days. The reaction mixture was poured onto ice and water and the cold mixture was extracted twice with diethyl ether. The ether was removed in vacuo and the residual oil was triturated twice with hexane. The oil was suspended in water and the aqueous phase was neutralised with glacial acetic acid. The aqueous phase was taken to dryness in vacuo and resuspended in water (15 ml) and applied to a column of Dowex 50 (H+) resin (10 g). The column was washed with water until the ultra violet absorbance of the eluant was zero. The column packing was removed from the column and heated with several portions of concentrated ammonium hydroxide solution (400 ml). The basic solution was filtered in vacuo, cooled and neutralized with glacial acetic acid. The yellow solid was collected and dried in vacuo at 40° C. to give 4-benzylamino-1H-imidazo(4,5-c)pyridine 0.94 g, m.p. 60°-64° C., 31.5%.

reactant | chloro-1H-imidazo(4,5-c)pyridine | 13 mmol, 2.0 g | ClN1C=NC=2C=NC=CC21 | C6H4ClN3
reactant | benzylamine | 5 ml | C(C1=CC=CC=C1)N | C7H9N
catalyst | water | a few drops | O | H2O
solvent | water | O | H2O
product | 4-benzylamino-1H-imidazo(4,5-c)pyridine | 0.94 g, 31.5% | C(C1=CC=CC=C1)NC1=NC=CC2=C1N=CN2 | C13H12N4
